US05661155
Diisopropylethylamine (24 ml, 0.138 mole) (Aldrich) was added to a suspension of 4-nitrophthalic anhydride (25 g, 0.13 mole) (Tokyo Kasei) and L-glutamic acid diethyl ester hydrochloride (35 g, 0.146 mole) (Aldrich) in toluene (130 ml). The reaction mixture was stirred at reflux utilizing a Dean-Stark trap for 2.5 hours. After cooling, the solution was diluted with diethyl ether (300 ml), washed with water (75 ml), saturated NaHCO3 solution (50 ml), dried (MgSO4), and concentrated in vacuo at 70° C. to give diethyl (S)-2-(4-nitrophthalimido)glutarate as an oil that solidified to a white solid on standing (35.8 g). M.P.=65.5°-66.5° C. 1H NMR (DMSO-d6, 300 MHz) δ: 1.12 (t, J=7 Hz, 3H, ester CH3), 1.14 (t, J=7 Hz, 3H, ester CH3), 2.2-2.5 (m, 4H, glu CH2CH2), 3.96 (q, J=7 Hz, 2H, ester CH2), 4.08-4.19 (m, 2H, ester CH2), 4.97-5.04 (m, 1H, glu CH), 8.19 (dd, J=8,0.5 Hz, 1H, Ar), 8.56 (dd, J=2,0.5 Hz, 1H, Ar), 8.68 (dd, J=8,2 Hz, 1H, Ar). Mass spectrum (CI-CH4); 379 (M+1, 28.8%), 333 (71.6%), 305 (100%). Anal. Calculated for C17H18N2O8 : C, 53.97; H, 4.80; N, 7.40. Found: C, 53.89; H, 4.82; N, 7.42.

reactant | Diisopropylethylamine | 0.138 mole, 24 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrophthalic anhydride | 0.13 mole, 25 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | L-glutamic acid diethyl ester hydrochloride | 0.146 mole, 35 g | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | diethyl (S)-2-(4-nitrophthalimido)glutarate | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)[C@H](C(=O)OCC)CCC(=O)OCC)=CC1 | C17H18N2O8
